US06358980B1
2-[(4-Fluoro-benzyl)-(2-hydroxy-ethyl)-amino]-ethanol was prepared according to the general method as outlined in Example 1 (Step 4). Starting from diethanolamine (15.7 g, 150 mmol), and 4-fluoro-benzyl chloride (14.4 g, 100 mmol) 20 g of the product was isolated. Yield 20 g, (93%%); yellow oil; MS: 215 M+H)+

reactant | diethanolamine | 150 mmol, 15.7 g | N(CCO)CCO | C4H11NO2
reactant | 4-fluoro-benzyl chloride | 100 mmol, 14.4 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
product | 2-[(4-Fluoro-benzyl)-(2-hydroxy-ethyl)-amino]-ethanol | FC1=CC=C(CN(CCO)CCO)C=C1 | C11H16FNO2
